US06100423
To a solution of 5-bromosalicylaldehyde (20.0 g, 0.1 mole) and potassium iodide (17 g, 0.1 mole) in acetonitrile (150 mL) and water (50 mL) in a 500 mL round bottom flask with magnetic stirrer was added 10 chloramine T (23 g, 0.1 mole). The mixture was allowed to react for one hour. The reaction mixture was partitioned between hydrochloric acid (10%, 200 mL) and ethyl acetate. The organic layer was dried (Na2SO4), filtered and concentrated in vacuo. To the residue was added hexanes and the reaction mixture heated to 50° C. for 15 minutes. The undissolved material was removed by filtration. The filtrate was concentrated in vacuo to leave canary yellow 3-iodo-5-bromosalicylaldehyde (26 g).

reactant | 5-bromosalicylaldehyde | 0.1 mole, 20.0 g | BrC1=CC=C(C(C=O)=C1)O | C7H5BrO2
reactant | potassium iodide | 0.1 mole, 17 g | [I-].[K+]
reactant | chloramine T | 0.1 mole, 23 g | CC=1C=CC(=CC1)S(=O)(=O)NCl | C7H8ClNO2S
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
solvent | water | 50 mL | O | H2O
product | 3-iodo-5-bromosalicylaldehyde | 26 g | IC1=C(C(C=O)=CC(=C1)Br)O | C7H4BrIO2
